US08703810B2
(S)-2-(7-Azabicyclo[2.2.1]heptan-7-yl)propan-1-ol
The title compound was synthesized as described in Intermediate 39 (steps 2-3) using (R)-1-(trityloxy)propan-2-yl methanesulfonate and 7-azabicyclo[2.2.1]heptane hydrochloride as starting materials. 1H NMR (DMSO-d6): δ 4.36 (t, 1H), 3.42 (m, 3H), 3.07 (m, 1H), 2.26 (m, 1H), 1.54 (m, 4H), 1.18 (m, 4H), 0.96 (d, 3H).

reactant | (R)-1-(trityloxy)propan-2-yl methanesulfonate | CS(=O)(=O)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24O4S
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | Cl.C12CCC(CC1)N2
product | (S)-2-(7-Azabicyclo[2.2.1]heptan-7-yl)propan-1-ol | C12CCC(CC1)N2[C@H](CO)C | C9H17NO
